US05998617
The 2,3-dimethylbenzo(B)phenazine was prepared by the condensation of 2,3-diaminonapthalene with 4,5-dimethyl-1,2-benzoquinone in 4:1 ethanol to acetic acid at reflux for 2 hours. The phenazine was alkylated by the procedure of Synthesis Example 8, using iodomethane. Electrochemical analysis was consistent with an N,N'-dialkylated phenazine.

reactant | 2,3-diaminonapthalene | NC1=CC2=CC=CC=C2C=C1N | C10H10N2
reactant | 4,5-dimethyl-1,2-benzoquinone | CC1=CC(C(C=C1C)=O)=O | C8H8O2
reactant | phenazine | C1=CC=CC2=NC3=CC=CC=C3N=C12 | C12H8N2
reactant | iodomethane | IC | CH3I
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dimethylbenzo(B)phenazine | CC=1C(=CC=2N=C3C=C4C(=CC3=NC2C1)C=CC=C4)C | C18H14N2
